US04874763
Analogous to this formula, 5.8 g=95.1% of the theoretical yield or 2.4 g=80.0% of the theoretical yield of 4-aminobenzyl-benzylcyanide is prepared from 7.0 g or 3.4 g of 4-nitrobenzyl-benzylcyanide, with 6.1 or 3.0 g of tin, 95.4 ml or 46.3 ml of ethanol and 27.7 ml or 13.5 ml of hydrochloric acid, 32%. The two raw products are combined and chromatographed (silica gel 0.063-0.2 mm, developing agent diethyl ether: petroleum ether--2:1).

reactant | 4-nitrobenzyl-benzylcyanide | 3.4 g | [N+](=O)([O-])C1=CC=C(CC(C2=CC=CC=C2)C#N)C=C1 | C15H12N2O2
reactant | tin | 3.0 g | [Sn] | Sn
reactant | hydrochloric acid | 13.5 ml | Cl | ClH
solvent | ethanol | 46.3 ml | C(C)O | C2H6O
product | 4-aminobenzyl-benzylcyanide | NC1=CC=C(CC(C2=CC=CC=C2)C#N)C=C1 | C15H14N2
